US05760035
A mixture of 4-(2-dimethylaminoethyl)piperidine dihydrochloride (7.0 g), 2-bromoethyl 4-methylphenyl ether (6.6 g), triethylamine (12.75 ml) and DMF (50 ml) was heated on a steam bath for 16 hours. The mixture was poured into ice/water (500 ml), basified with 2M sodium hydroxide solution and extracted with dichloromethane. The combined organic extracts were washed with water and then extracted with 2M hydrochloric acid. The combined acidic layers were basified with 2M sodium hydroxide solution and then extracted with dichloromethane to give an oil. The oil was distilled at 120° C. at 0.05 mbar and the distillate was dissolved in ether, acidified with ethereal hydrogen chloride solution and filtered. The solid obtained was washed with ether and recrystallised from absolute ethanol to give 4-(2-dimethylaminoethyl)-1-[2-(4-methylphenoxy)ethyl]piperidine dihydrochloride m.p. 281°-283° C.

reactant | 4-(2-dimethylaminoethyl)piperidine dihydrochloride | 7.0 g | Cl.Cl.CN(CCC1CCNCC1)C
reactant | 2-bromoethyl 4-methylphenyl ether | 6.6 g | CC1=CC=C(C=C1)OCCBr | C9H11BrO
reactant | triethylamine | 12.75 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-(2-dimethylaminoethyl)-1-[2-(4-methylphenoxy)ethyl]piperidine dihydrochloride | Cl.Cl.CN(CCC1CCN(CC1)CCOC1=CC=C(C=C1)C)C | InChI=1S/C18H30N2O.2ClH/c1-16-4-6-18(7-5-16)21-15-14-20-12-9-17(10-13-20)8-11-19(2)3;;/h4-7,17H,8-15H2,1-3H3;2*1H
